US05393875
2.83 g (8.77 mmol) tert-butyl [(1S,2R)-1-benzyl-2-(cyclopropylcarbonyl)-2-hydroxyethyl]carbamate were dissolved in 130 ml of methylene chloride, 3 ml of acetic acid were added thereto and the mixture was finally treated portionwise at 0°-10° C. with 0.332 g (8.78 mmol) of sodium borohydride. The reaction solution was stirred at 50 for a further 2 hours and was then partitioned between 2N sodium hydrogen carbonate solution and methylene chloride. The organic phase was separated, washed with water and with saturated sodium chloride solution, dried over magnesium sulphate, filtered and evaporated under reduced pressure. Crystallization of the residue from ether/hexane yielded 2.1 g of tert-butyl [(1S,2R,3S)-1-benzyl-3-cyclopropyl-2,3-dihydroxypropyl]carbamate as colourless needles, m.p. 83-85°.

reactant | tert-butyl [(1S,2R)-1-benzyl-2-(cyclopropylcarbonyl)-2-hydroxyethyl]carbamate | 8.77 mmol, 2.83 g | C(C1=CC=CC=C1)[C@@H]([C@@H](O)C(=O)C1CC1)NC(OC(C)(C)C)=O | C18H25NO4
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 8.78 mmol, 0.332 g | [BH4-].[Na+]
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl [(1S,2R,3S)-1-benzyl-3-cyclopropyl-2,3-dihydroxypropyl]carbamate | 2.1 g | C(C1=CC=CC=C1)[C@@H]([C@H]([C@@H](O)C1CC1)O)NC(OC(C)(C)C)=O | C18H27NO4
